US08859541B2
E2g) tert-butyl-N-[1-[[5-(4,6-dimethylpyrimidin-5-yl)-6-(2-naphthalen-2-ylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate
A mixture of [6-[2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoylamino]-2-(2-naphthalen-2-ylethynyl)pyridin-3-yl]boronic acid D2b (50 mg, 0.11 mmol), 5-bromo-4,6-dimethylpyrimidine (26 mg, 0.14 mmol), Dichlorobis(triphenylphosphine)-palladium(II) (8 mg, 0.01 mmol), Na2CO3 (34 mg, 0.32 mmol), dioxane (0.9 ml), MeOH (0.3 ml) and water (0.1 ml) is stirred under argon atmosphere for 2 h at 80° C. The mixture is concentrated in vacuo and the product purified by RP HPLC. Yield: 12 mg (21%). HPLC-MS: M+H=536; tR=2.22 min (*Method—6).

reactant | [6-[2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoylamino]-2-(2-naphthalen-2-ylethynyl)pyridin-3-yl]boronic acid | CN(C(C(=O)NC1=CC=C(C(=N1)C#CC1=CC2=CC=CC=C2C=C1)B(O)O)C)C(=O)OC(C)(C)C | C26H28BN3O5
reactant | 5-bromo-4,6-dimethylpyrimidine | 0.14 mmol, 26 mg | BrC=1C(=NC=NC1C)C | C6H7BrN2
reactant | Na2CO3 | 0.32 mmol, 34 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dioxane | 0.9 ml | O1CCOCC1 | C4H8O2
catalyst | Dichlorobis(triphenylphosphine)-palladium(II) | 0.01 mmol, 8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 0.1 ml | O | H2O
solvent | MeOH | 0.3 ml | CO | CH4O
product | tert-butyl-N-[1-[[5-(4,6-dimethylpyrimidin-5-yl)-6-(2-naphthalen-2-ylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)C=1C(=NC=NC1C)C)C#CC1=CC2=CC=CC=C2C=C1)C)=O | C32H33N5O3
